2200-02-24 09:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated via ETT.
   Remains on vaspressor support.
   Erythema noted at indwelling PICC site --> PICC removed.
   This AM, awake, attempting to communicate.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanical ventilation
   Allergies:
   Terazosin
   Mental status c
   Last dose of Antibiotics:
   Azithromycin - [**2200-2-24**] 02:10 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-2-24**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 94 (94 - 104) bpm
   BP: 111/57(70) {92/54(64) - 139/72(89)} mmHg
   RR: 14 (13 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (2 - 8)mmHg
   CO/CI (Fick): (14 L/min) / (7.9 L/min/m2)
   SvO2: 83%
                               Total In:
                               2,090 mL
   PO:
                               TF:
   IVF:
   2,090 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    540 mL
   Urine:
   540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/41/109/26/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   352 K/uL
   152 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   29.4 %
   24.2 K/uL
        [image002.jpg]
                             [**2200-2-24**]  01:17 AM
                             [**2200-2-24**]  02:02 AM
                             [**2200-2-24**]  07:30 AM
   WBC
   24.2
   Hct
   29.4
   Plt
   352
   Cr
   0.8
   TropT
   0.07
   TCO2
   28
   26
   Glucose
   152
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:143/11/0.07, Differential-Neuts:94.3 %, Lymph:1.9 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Imaging: CXR ([**2200-2-23**]) re-expantion of LLL atalectasis.  LLL infiltrate.
   Assessment and Plan
   84 yom high grade cardiac lymphoma, now with pneumonia, sepsis.
   ACUTE RESPIRTATORY FAILURE -- suspect multifactorial, including LLL
   pneumonia (HAP), COPD/asthma exacerbation.   Plan continue mechanical
   ventilation, empirical Vanc/Zosyn.  Work to SBT and assessment for
   extubation.  F/U CXR.
   SEPSIS -- mild hypotension, attributed to sepsis and hypovolemia.  Less
   likely cardiogenic (cardiac lymphoma).  Sources include lung and
   line-related (PICC).  Weaning Levophed, maintaining MAP >60 mmHg.
   LLL ATALECTASIS -- possibly related to evolving pneumonia or
   hypoventilation.  Resolved.  Monitor.
   ISHCEMIC HEART DISEASE - likely secondary or demand ischemia, rather
   than primary event. [**Month (only) 8**] also be component of cardiac involvement of
   lymphoma (if remains elevated).  Check Echo in AM.
   CARDIAC LYMPHOMA -- s/p recent chemotherapy.  Mild compromised LV
   function.
   FLUIDS -- repleting.  Monitor I/O, maintain CVP >10 cm H2O
   LLE DVT -- s/p IVC filter.  Monitor.
   NUTRITIONAL SUPPORT -- TF, hold as may be ready for extubation soon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-2-24**] 12:41 AM
   20 Gauge - [**2200-2-24**] 12:42 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-02-25 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Respiratory distress/LLL PNA
   24 Hour Events:
   -weaned fentanyl and midazolam, extubated
   -periods of respiratory distress, put on BiPAP
   -Later in afternoon and again in eveving tachy to the 120s, RR 30-40s,
   somewhat helped by nebs and by ativan 0.5 IV. Also got 20 IV lasix and
   put out 2 L
   -ABG in early evening 7.36/50/137/29
   -TTE showed known R atrial mass
   -on vanc/zosyn
   -restarted home ativan
   Allergies:
   Terazosin
   Mental status c
   Last dose of Antibiotics:
   Vancomycin - [**2200-2-24**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-2-24**] 10:31 PM
   Azithromycin - [**2200-2-25**] 02:13 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-2-24**] 12:35 PM
   Furosemide (Lasix) - [**2200-2-24**] 12:38 PM
   Lorazepam (Ativan) - [**2200-2-24**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 113 (94 - 137) bpm
   BP: 129/42(63) {77/42(55) - 183/88(113)} mmHg
   RR: 37 (14 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 1 (-4 - 250)mmHg
   CO/CI (Fick): (10.1 L/min) / (5.7 L/min/m2)
   SvO2: 82%
   Total In:
                                                                  3,351 mL
                                                                    417 mL
   PO:
   TF:
   IVF:
                                                                  3,351 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                    760 mL
   Urine:
                                                                  3,725 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -374 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 672 (330 - 672) mL
   PS : 8 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/50/137/26/2
 8pm [**2199-2-24**]
   Ve: 25 L/min
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: Thin
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly. RIJ in place
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP= unable to assess [**12-23**] line placement
   LUNGS: few coarse BS at left base, otherwise CTA w/o wheezing or rales,
   not decreased at bases.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: Left Picc in LUE w/ surrounding erythema. No edema or calf
   pain, 2+ dorsalis pedis/ posterior tibial pulses. UE WWP, lower
   extremities cool.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   231 K/uL
   8.6 g/dL
   90 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   13 mg/dL
   103 mEq/L
   137 mEq/L
   25.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2200-2-24**]  01:17 AM
                             [**2200-2-24**]  02:02 AM
                             [**2200-2-24**]  07:30 AM
                             [**2200-2-24**]  11:42 AM
                             [**2200-2-24**]  11:54 AM
                             [**2200-2-24**]  05:14 PM
                             [**2200-2-24**]  08:35 PM
                             [**2200-2-25**]  04:39 AM
   WBC
   24.2
   13.3
   Hct
   29.4
   29
   27.5
   25.2
   Plt
   352
   231
   Cr
   0.8
   0.7
   0.8
   TropT
   0.07
   0.08
   0.09
   TCO2
   28
   26
   27
   29
   Glucose
   152
   92
   93
   90
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:127/9/0.09, Differential-Neuts:94.3 %, Lymph:1.9 %, Mono:3.5
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.8 mg/dL
   [**2-24**] TTE
   The left atrium is mildly dilated. A right atrial mass is suggested but
   not well defined on the basis of this study. Left ventricular wall
   thickness, cavity size and regional/global systolic function are normal
   (LVEF >55%). Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets (3) are mildly thickened but aortic
   stenosis is not present. No aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. Trivial mitral regurgitation is
   seen. The tricuspid valve leaflets are mildly thickened. The pulmonary
   artery systolic pressure could not be determined. There is a
   trivial/physiologic pericardial effusion.
   Assessment and Plan
   84 yo M with high-grade cardiac lymphoma s/p 2nd cycle R-[**Hospital1 988**], DVT s/p
   filter placement presents with acute respiratory distress and sepsis.
   .
   #.  Acute Hypoxic Respiratory Failure - In setting of elevated WBC,
   imaging with LLL infiltrate, most likely etiology PNA but must also
   consider given history, COPD exacerbation([**12-30**] FEV1 1.01) or heart
   failure from cardiac tumor. He has no known systolic or diastolic
   dysfunction but known right atrial lymphoma mass. No evidence of PE on
   OSH CTA chest. Must also consider aspiration pneumoia
   - cover for hospital acquired PNA given recent hospitalization,
   continue vanc, start zosyn, will discontinue azithromycin for atypicals
   - send endotracheal sputum sample, check viral respiratory cx,
   legionella UA, f/u blood cx sent from ED
   - albuterol/ipratropium inhalers Q6H, prn high resistance
   - continue with mechanical ventilation, AC 550/12/5, decrease FiO2 as
   tolerated
   - VAP bundle, fentanyl/versed for sedation
   .
   #. Shock - Presumed sepsis from pulmonary source vs. PICC line vs.
   cardiogenic vs. obstructive [**12-23**] right atrial tumor. No evidence of
   right heart failure, exam not consistent with distributive shock.
   - d/c left PICC, sent cath tip for culture, obtain Blood culture off
   line prior to d/c
   - IVF boluses to CVP>12, MAP>65, UOP> 40 cc/hr, then levophed to
   maintain MAP>65
   - trend lactate Q2H
   - continous SvO2 monitor w/ goal >70%
   .
   #. Possible NSTEMI - Initial set of CEs elevated in the ED. Most recent
   troponin from [**2-9**] elevated at 0.33/0.43. No prior BNP in our system.
   Unclear what to make of CE elevation in setting of recent chemotherapy
   targeted and cardiac tumor. EKG at baseline.
   - trend CEs Q8H x2 additional sets
   - monitor on telemetry, obtain ECHO in am as below
   - if rules in, start BB, ASA, STATIN
   .
   #. High-grade Cardiac Lymphoma - S/p 2nd cycle R-[**Hospital1 988**], last discharged
   from BMT [**2-14**], completed neupogen. Plan for next cycle of chemo [**2201-2-27**]
   and ECHO to assess response on [**2-24**]
   - obtain planned TTE to assess EF and tumor response in am
   - continue prn antiemetics, allopurinol
   - will make BMT team aware of admission in am
   .
   #. DVT - s/p filter placement, decision made during last admission
   patient at too high risk for anticoagulation. No evidence of PE on CTA
   Chest at OSH.
   - pneumoboots, SubQ Hep for now
   .
   .
   FEN: NPO, place OGT and start TF in am if appears to need to be
   intubated long term, monitor and replete lytes prn
   .
   PPX:
   -DVT ppx with IVC filter in place, pneuomboots, SubQ Hep
   -Bowel regimen with senna, colace, bisacodyl
   -Pain management with lidoderm patch, fentanyl
   .
   ACCESS: Will d/c left PICC,
   PIV, RIJ triple lumen placed in ED at [**Hospital1 5**]
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: [**Name (NI) 284**] [**Name (NI) 5574**] (son) [**Telephone/Fax (1) 5575**] cell,
   [**Telephone/Fax (1) 5576**] home, daughter-in-law [**Name (NI) **] [**Telephone/Fax (1) 5577**] cell, [**First Name5 (NamePattern1) 2616**]
   [**Known lastname 5574**] [**Telephone/Fax (1) 5578**](daughter)
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-2-24**] 12:41 AM
   20 Gauge - [**2200-2-24**] 12:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-02-25 10:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon, remains extubated.
   Required BiPAP for distress, with good effect.
   Currently on face mask.
   Sedation d/c'd
   Vasopressor's d/c'd yesterday afternoon.
   Overall, looks much improved this AM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Terazosin
   Mental status c
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-2-24**] 10:31 PM
   Azithromycin - [**2200-2-25**] 02:13 AM
   Vancomycin - [**2200-2-25**] 07:40 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-2-24**] 12:35 PM
   Furosemide (Lasix) - [**2200-2-24**] 12:38 PM
   Lorazepam (Ativan) - [**2200-2-24**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2200-2-25**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-2-25**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.7
C (96.3
   HR: 111 (104 - 137) bpm
   BP: 122/65(78) {77/42(55) - 183/88(113)} mmHg
   RR: 30 (23 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 4 (-4 - 250)mmHg
   CO/CI (Fick): (9.7 L/min) / (5.4 L/min/m2)
   SvO2: 79%
   Total In:
                                                                  3,351 mL
                                                                    715 mL
   PO:
   TF:
   IVF:
                                                                  3,351 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                  1,340 mL
   Urine:
                                                                  3,725 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -374 mL
                                                                   -626 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 672 (330 - 672) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.36/50/137/26/2
   Ve: 25 L/min
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   mild resp distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Left lung field, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   231 K/uL
   90 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   13 mg/dL
   103 mEq/L
   137 mEq/L
   25.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2200-2-24**]  01:17 AM
                             [**2200-2-24**]  02:02 AM
                             [**2200-2-24**]  07:30 AM
                             [**2200-2-24**]  11:42 AM
                             [**2200-2-24**]  11:54 AM
                             [**2200-2-24**]  05:14 PM
                             [**2200-2-24**]  08:35 PM
                             [**2200-2-25**]  04:39 AM
   WBC
   24.2
   13.3
   Hct
   29.4
   29
   27.5
   25.2
   Plt
   352
   231
   Cr
   0.8
   0.7
   0.8
   TropT
   0.07
   0.08
   0.09
   TCO2
   28
   26
   27
   29
   Glucose
   152
   92
   93
   90
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:127/9/0.09, Differential-Neuts:94.3 %, Lymph:1.9 %, Mono:3.5
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   84 yom high grade cardiac lymphoma, now with pneumonia, sepsis.
   ACUTE RESPIRTATORY FAILURE -- suspect multifactorial, including LLL
   pneumonia (HAP), COPD/asthma exacerbation.   Plan monitor RR, SaO2,
   provide oxygen, continue antimicrobials.
   F/U CXR.
   SEPSIS -- Resoved.  Monitor BP, maintaining MAP >60 mmHg.
   LLL ATALECTASIS --   Resolved.  Monitor.
   ISHCEMIC HEART DISEASE - likely secondary or demand ischemia, rather
   than primary event. [**Month (only) 8**] also be component of cardiac involvement of
   lymphoma (if remains elevated).  Check Echo in AM.
   CARDIAC LYMPHOMA -- s/p recent chemotherapy.  Mild compromised LV
   function.
   FLUIDS -- repleting.  Monitor I/O, maintain CVP >10 cm H2O
   LLE DVT -- s/p IVC filter.  Monitor.
   NUTRITIONAL SUPPORT -- initiate sips.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-2-24**] 12:41 AM
   20 Gauge - [**2200-2-24**] 12:42 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-02-26 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Acute respiratory distress and LLL Pneumonia
   24 Hour Events:
   Weaned O2 to 2L NC
   Autodiuresed 800 cc
   Allergies:
   Terazosin
   Mental status c
   Last dose of Antibiotics:
   Azithromycin - [**2200-2-25**] 02:13 AM
   Vancomycin - [**2200-2-25**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-2-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-2-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-2-26**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 106 (100 - 119) bpm
   BP: 138/74(89) {92/49(59) - 152/77(93)} mmHg
   RR: 24 (22 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 5 (3 - 6)mmHg
   CO/CI (Fick): (9.7 L/min) / (5.4 L/min/m2)
   SvO2: 79%
                                Total In:
                                                                  1,980 mL
                                                                    171 mL
   PO:
                                                                    690 mL
                                TF:
   IVF:
                                                                  1,290 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                  1,020 mL
   Urine:
                                                                  2,220 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -849 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   HEENT: Neck Supple, RIJ in place
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: few coarse BS at left base, otherwise CTA w/o wheezing or rales,
   not decreased at bases.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No c/c/e
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   227 K/uL
   8.5 g/dL
   95 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   24.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2200-2-24**]  01:17 AM
                             [**2200-2-24**]  02:02 AM
                             [**2200-2-24**]  07:30 AM
                             [**2200-2-24**]  11:42 AM
                             [**2200-2-24**]  11:54 AM
                             [**2200-2-24**]  05:14 PM
                             [**2200-2-24**]  08:35 PM
                             [**2200-2-25**]  04:39 AM
                             [**2200-2-26**]  03:01 AM
   WBC
   24.2
   13.3
   10.4
   Hct
   29.4
   29
   27.5
   25.2
   24.4
   Plt
   [**Telephone/Fax (3) 5623**]
   Cr
   0.8
   0.7
   0.8
   0.6
   TropT
   0.07
   0.08
   0.09
   TCO2
   28
   26
   27
   29
   Glucose
   152
   92
   93
   90
   95
   Other labs: Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   84 yo M with high-grade cardiac lymphoma s/p 2nd cycle R-[**Hospital1 988**], DVT s/p
   filter placement presents with acute respiratory distress and LLL
   Pneumonia.
   .
   #.  Acute Hypoxic Respiratory Failure
 Improved.   Improving on 2L NC,
   with RR in 20s.  Patient has been saturating in upper 90s.  Patient
   RR appear to be related to anxiety, however will need to monitor
   closely to make sure patient is not tiring.
   - Continue facemask, wean as tolerated
   - Continue ativan prn for anxiety
   - albuterol/ipratropium inhalers prn
   #  [**Hospital **] Hospital Acquired Pneumonia:  Patient
s respiratory status is
   improving, CXR shows no change from prior.  Patient
s WBC count is
   trending downward and patient has remained afebrile and hemodynamically
   stable.
   - Continue Vanc/Zosyn for total 10 day course
   #. High-grade Cardiac Lymphoma - S/p 2nd cycle R-[**Hospital1 988**], last discharged
   from BMT [**2-14**], completed neupogen. Plan was for next cycle of chemo
   [**2201-2-27**], but may be postponed for now.  Echo shows no change from
   prior.   Cardiac enzyme elevations are likely from Chemo.
   - continue prn antiemetics, allopurinol
   .
   #. DVT - s/p filter placement, decision made during last admission
   patient at too high risk for anticoagulation.
   - pneumoboots, SubQ Hep for now
   .
   FEN: Speech evaled patient, recommends thin liquids and soft diet..
   replete lytes prn
   .
   PPX:
   -DVT ppx with IVC filter in place, pneuomboots, SubQ Hep
   -Bowel regimen with senna, colace, bisacodyl
   -Pain management with lidoderm patch
   .
   ACCESS: PIV.  d/c RIJ today and plan for PICC on floor.
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: [**Name (NI) 284**] [**Name (NI) 5574**] (son) [**Telephone/Fax (1) 5575**] cell,
   [**Telephone/Fax (1) 5576**] home, daughter-in-law [**Name (NI) **] [**Telephone/Fax (1) 5577**] cell, [**First Name5 (NamePattern1) 2616**]
   [**Known lastname 5574**] [**Telephone/Fax (1) 5578**](daughter)
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-2-24**] 12:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-02-26 13:07:00 Physician Attending Progress Note
Chief Complaint: Resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   appears much improved.
   Sitting up in bed, eating breakfast, speaking with ease.
   No new complaints.
   Effective cough.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Terazosin
   Mental status c
   Last dose of Antibiotics:
   Azithromycin - [**2200-2-25**] 02:13 AM
   Vancomycin - [**2200-2-26**] 07:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-2-26**] 12:27 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-2-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-2-26**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 109 (100 - 119) bpm
   BP: 133/77(87) {92/49(59) - 152/77(93)} mmHg
   RR: 24 (21 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 3 (2 - 6)mmHg
   Total In:
                                                                  1,980 mL
                                                                    649 mL
   PO:
                                                                    690 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                  1,475 mL
   Urine:
                                                                  2,220 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -826 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : RLL, posterior, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   227 K/uL
   95 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   24.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2200-2-24**]  01:17 AM
                             [**2200-2-24**]  02:02 AM
                             [**2200-2-24**]  07:30 AM
                             [**2200-2-24**]  11:42 AM
                             [**2200-2-24**]  11:54 AM
                             [**2200-2-24**]  05:14 PM
                             [**2200-2-24**]  08:35 PM
                             [**2200-2-25**]  04:39 AM
                             [**2200-2-26**]  03:01 AM
   WBC
   24.2
   13.3
   10.4
   Hct
   29.4
   29
   27.5
   25.2
   24.4
   Plt
   [**Telephone/Fax (3) 5623**]
   Cr
   0.8
   0.7
   0.8
   0.6
   TropT
   0.07
   0.08
   0.09
   TCO2
   28
   26
   27
   29
   Glucose
   152
   92
   93
   90
   95
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:127/9/0.09, Differential-Neuts:94.3 %, Lymph:1.9 %, Mono:3.5
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   84 yom high grade cardiac lymphoma, now with pneumonia, sepsis.
   ACUTE RESPIRTATORY FAILURE -- Resolved.  Suspect multifactorial,
   including LLL pneumonia (HAP), COPD/asthma exacerbation.   Plan monitor
   RR, SaO2, provide oxygen, continue antimicrobials.  F/U CXR.  Continue
   albuterol nebs.
   RLL PNEUMONIA -- continue antimicrobials.
   SEPSIS -- Resoved.  Monitor BP, maintaining MAP >60 mmHg.
   LLL ATALECTASIS --   Resolved.  Monitor.
   ISHCEMIC HEART DISEASE - likely secondary or demand ischemia, rather
   than primary event. [**Month (only) 8**] also be component of cardiac involvement of
   lymphoma (if remains elevated).  Check Echo in AM.
   CARDIAC LYMPHOMA -- s/p recent chemotherapy.  Mild compromised LV
   function.
   FLUIDS -- repleting.  Monitor I/O, maintain CVP >10 cm H2O
   LLE DVT -- s/p IVC filter.  Monitor.
   NUTRITIONAL SUPPORT -- initiate sips.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-2-24**] 12:41 AM
   20 Gauge - [**2200-2-26**] 09:16 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill